US07414076B2
Preparation of 3-(2,3-dimethoxybenzyl)amino-1-propanesulfonic acid (Compound AZ)
To a solution of 2,3-dimethoxybenzylamine (2.2 mL, 15.0 mmol) in 2-butanone (20 mL) was added 1,3-propane sultone (1.97 g, 15.8 mmol). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×25 mL) and dried in vacuo. The crude product was suspended in 90% Acetone/MeOH (75 mL). The suspension was stirred at reflux for 30 seconds, the solid was collected by filtration, and dried in vacuo; affording compound AZ, 1.95 g (45%).

reactant | 2,3-dimethoxybenzylamine | 15.0 mmol, 2.2 mL | COC1=C(CN)C=CC=C1OC | C9H13NO2
reactant | 1,3-propane sultone | 15.8 mmol, 1.97 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | 2-butanone | 20 mL | CC(CC)=O | C4H8O
product | 3-(2,3-dimethoxybenzyl)amino-1-propanesulfonic acid | COC1=C(CNCCCS(=O)(=O)O)C=CC=C1OC | C12H19NO5S
